US05516774
4-[(5-Fluoro-2-methylbenzoyl)amino]benzoic acid
A mixture of 0.60 g of ethyl 4-[(5-fluoro-2methylbenzoyl)amino]benzoate 0.60 ml of 10N NaOH, 25 ml of water and 50 ml of absolute ethyl alcohol is heated on a steam bath for 1 hour, cooled and acidified with acetic acid. The resulting solid is filtered and dried in vacuo at 60°-80° C. to give 0.47 g of the desired product as a solid, m.p. 272°-275° C.

reactant | ethyl 4-[(5-fluoro-2methylbenzoyl)amino]benzoate | 0.60 ml, 0.60 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C1)C | C17H16FNO3
reactant | NaOH | 10N | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | ethyl alcohol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[(5-Fluoro-2-methylbenzoyl)amino]benzoic acid | 0.47 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C1)C | C15H12FNO3
